US08211901B2
Preparation of N-(2-amino-4-trifluoromethylphenyl)-6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthamide
The title compound (42.3 mg, 79% yield) was prepared as a brown solid from 6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthoic acid (37.6 mg, 0.1 mmol) and 4-trifluoromethyl-o-phenylenediamine (21.1 mg, 0.12 mmol) by an analogous procedure to that described in example 16. 1H NMR (DMSO-d6) δ 4.01 (s, 6H, 2×OCH3), 5.72 (s, 2H, benzene-NH2), 6.92 (d, J=8.5 Hz, 1H, Ar—H), 7.42 (s, 1H, Ar—H), 7.59-7.65 (m, 3H, Ar—H), 7.90-7.96 (m, 2H, Ar—H), 7.98 (s, 1H, Ar—H), 8.10 (d, J=8.3 Hz, 1H, Ar—H), 8.17 (d, J=7.3 Hz, 1H, Ar—H), 8.39 (d, J=9.2 Hz, 1H, Ar—H), 8.54 (s, 1H, Ar—H), 9.90 (s, 1H, benzene-NH). LC-MS (m/z) 535 (M+1).

reactant | 6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthoic acid | 0.1 mmol, 37.6 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C21H16N2O5
reactant | 4-trifluoromethyl-o-phenylenediamine | 0.12 mmol, 21.1 mg | FC(C1=CC(=C(C=C1)N)N)(F)F | C7H7F3N2
product | N-(2-amino-4-trifluoromethylphenyl)-6-(6,7-dimethoxyquinazolin-4-yloxy)-1-naphthamide | 42.3 mg, 79% yield | NC1=C(C=CC(=C1)C(F)(F)F)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OC | C28H21F3N4O4
